US06790865B2
To a solution of ethyl 2-[4-(2-benzyloxyethyl)-phenoxy]-2-methylpropionate (480 mg) in ethanol (3.0ml) was added 10% palladium on activated carbon (30 mg), and the mixture was stirred for 48 hours at room temperature under a hydrogen atmosphere. The catalyst was filtered off, and the solvent of the filtrate was removed under reduced pressure. Purification of the residue by medium pressure liquid column chromatography on silica gel (eluent: hexane/diethyl ether=1/1) gave ethyl 2-[4-(2-hydroxyethyl)phenoxy]-2-methylpropionate (310 mg).

reactant | ethyl 2-[4-(2-benzyloxyethyl)-phenoxy]-2-methylpropionate | 480 mg | C(C1=CC=CC=C1)OCCC1=CC=C(OC(C(=O)OCC)(C)C)C=C1 | C21H26O4
solvent | ethanol | 3.0ml | C(C)O | C2H6O
catalyst | palladium on activated carbon | 30 mg | [Pd] | Pd
product | ethyl 2-[4-(2-hydroxyethyl)phenoxy]-2-methylpropionate | 310 mg | OCCC1=CC=C(OC(C(=O)OCC)(C)C)C=C1 | C14H20O4
